US07396836B2
(6-Chloro-3-pyridyl)methanol
To a solution of ethyl 6-chloronicotinate (25.8 g, 0.139 mol) in ethanol was added sodiumborohydride (10.5 g, 0.278 mol), followed by stirring under an atmosphere of nitrogen gas at room temperature. After 41 hours, the reaction mixture was concentrated and then the residue was diluted with a saturated aqueous ammonium chloride solution and ethyl acetate. The organic layer was washed with a saturated aqueous ammonium chloride solution, dried over anhydrous sodium sulfate and concentrated. The residue was subjected to silica gel column chromatography (elution solvent; hexane, hexane:ethyl acetate=4:1, 2:1, and 3:2), to give the title compound (11.7 g, 58%) as a pale yellow solid.

reactant | ethyl 6-chloronicotinate | 0.139 mol, 25.8 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | sodiumborohydride | 0.278 mol, 10.5 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (6-Chloro-3-pyridyl)methanol | 11.7 g, 58% | ClC1=CC=C(C=N1)CO | C6H6ClNO
